US06350762B1
2) Synthesis of benzyl 2-propionyl-3-(3-chlorophenyl)acrylate (mixture of E:Z=1:1)
1.59 g (7.71 mmol) of benzyl 3-oxovalerate, 1.08 g (7.71 mmol) of 3-chlorobenzaldehyde and 65.7 mg (0.771 mmol) of piperidine were heated under reflux in the presence of a catalytic amount of p-toluenesulfonic acid in 50 ml of benzene for 6 hours while water was removed. Benzene was evaporated under reduced pressure. Ethyl acetate was added to the reaction mixture. After washing with 1 N hydrochloric acid and then with a saturated aqueous sodium hydrogencarbonate solution, the organic layer was dried over anhydrous sodium sulfate and then concentrated under reduced pressure. The residue was purified by the silica gel chromatography (hexane/ethyl acetate=10/1) to obtain the title compound.

reactant | benzyl 3-oxovalerate | 7.71 mmol, 1.59 g | O=C(CC(=O)OCC1=CC=CC=C1)CC | C12H14O3
reactant | 3-chlorobenzaldehyde | 7.71 mmol, 1.08 g | ClC=1C=C(C=O)C=CC1 | C7H5ClO
reactant | piperidine | 0.771 mmol, 65.7 mg | N1CCCCC1 | C5H11N
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
solvent | water | O | H2O
product | benzyl 2-propionyl-3-(3-chlorophenyl)acrylate | C(CC)(=O)C(C(=O)OCC1=CC=CC=C1)=CC1=CC(=CC=C1)Cl | C19H17ClO3
